US06255494B1
Preparation of 2-(4-chlorophenoxymethyl)-4-[5-[1-(t-butoxycarbonyl)piperidin-4-yl]pentoxy]-1-[5-[1-(t-butoxycarbonyl)piperidin-4-yl]pentyl]benzimidazole
A solution of 4-hydroxy-2-(4-chlorophenoxymethyl)benzimidazole (500 mg, 1.82 mmol) in dry N,N-dimethylformamide (8 ml) was treated with sodium hydride (60% in mineral oil, 162 mg, 4.0 mmol, 2.2 eq). The resulting mixture was stirred at room temperature under a stream of nitrogen for about one hour. To this reaction mixture 5-[1-(t-butoxycarbonyl)piperidin-4-yl)pentyl bromide (4.0 mmol, 2.2 eq) was added and the resulting mixture was stirred for three hours at 70° C. The reaction was quenched by the addition of 10 ml of water. The aqueous fraction was extracted with ethyl acetate (3×10 ml). The organic fractions were combined and washed with water (2×10 ml), and then brine (1×10 ml), and then dried over magnesium sulfate. The solvents were removed in vacuo to yield a light brownish crude material. The desired title product was further purified by flash chromatography. There is some substitution at the 7-position of the benzimidazole present, although the 4-substituted is the major isomer.

reactant | 4-hydroxy-2-(4-chlorophenoxymethyl)benzimidazole | 1.82 mmol, 500 mg | OC1=CC=CC=2N=C(NC21)COC2=CC=C(C=C2)Cl | C14H11ClN2O2
reactant | sodium hydride | 4.0 mmol, 162 mg, 2.2 eq | [H-].[Na+]
reactant | 5-[1-(t-butoxycarbonyl)piperidin-4-yl)pentyl bromide | 4.0 mmol, 2.2 eq | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCCCBr | C15H28BrNO2
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenoxymethyl)-4-[5-[1-(t-butoxycarbonyl)piperidin-4-yl]pentoxy]-1-[5-[1-(t-butoxycarbonyl)piperidin-4-yl]pentyl]benzimidazole | ClC1=CC=C(OCC2=NC3=C(N2CCCCCC2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C3OCCCCCC3CCN(CC3)C(=O)OC(C)(C)C)C=C1 | C44H65ClN4O6
